US07829560B2
To a mixture of 2-chloro-6-morpholin-4-yl-pyrimidine-4-carboxylic acid [4-(2-morpholin-4-yl-ethoxy)-naphthalen-1-yl]-amide (95 mg) and 10% Pd/C (10 mg) in ethyl acetate (4 ml) is added a few drops of triethylamine. The mixture is then shaken at room temperature under hydrogen at 50 psi for 8 h. The solvent is then removed under reduced pressure and the residue purified by column chromatography on silica gel eluted with ethyl acetate:hexane (1:1) to 100% ethyl acetate to provide 6-morpholin-4-yl-pyrimidine-4-carboxylic acid [4-(2-morpholin-4-yl-ethoxy)-naphthalen-1-yl]-amide as a solid (22 mg).

reactant | 2-chloro-6-morpholin-4-yl-pyrimidine-4-carboxylic acid [4-(2-morpholin-4-yl-ethoxy)-naphthalen-1-yl]-amide | 95 mg | N1(CCOCC1)CCOC1=CC=C(C2=CC=CC=C12)NC(=O)C1=NC(=NC(=C1)N1CCOCC1)Cl | C25H28ClN5O4
solvent | ethyl acetate | 4 ml | C(C)(=O)OCC | C4H8O2
catalyst | triethylamine | a few drops | C(C)N(CC)CC | C6H15N
catalyst | Pd/C | 10 mg | [Pd] | Pd
product | 6-morpholin-4-yl-pyrimidine-4-carboxylic acid [4-(2-morpholin-4-yl-ethoxy)-naphthalen-1-yl]-amide | 22 mg | N1(CCOCC1)CCOC1=CC=C(C2=CC=CC=C12)NC(=O)C1=NC=NC(=C1)N1CCOCC1 | C25H29N5O4
